US09233163B2
a). 9-Fluorenylmethyl bromoacetate
Under ice-cooling, 9-fluorenemethanol (99%, 0.694 g, 3.5 mmol), bromoacetic acid (99%, 0.406 g, 2.9 mmol), DPTS (0.130 g, 0.44 mmol) and DCC (99%, 0.729 g, 3.5 mmol) were combined in dichloromethane (9 mL), stirred at 0° C. for 1 h, and the precipitate of dicyclohexylurea was filtered off from the cold mixture. The filtrate was diluted with cold ethyl acetate (30 mL), washed twice with cold 5% aqueous solution of NaH2PO4 (60 mL, acidified with H3PO4 to pH=3), freed of water droplets, and the solvents were distilled off in vacuo. The residue was extracted with cold pentane to remove the excess of DCC, and purified by flash chromatography (silica-gel, hexane-CHCl3, 5:1 to 1:1) followed by crystallization from cold hexane. Yield of 8: 0.795 g (87%). The purity was confirmed by TLC (SiO2, heptane-ethyl acetate, 9:1).

reactant | 9-fluorenemethanol | 3.5 mmol, 0.694 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CO | C14H12O
reactant | bromoacetic acid | 2.9 mmol, 0.406 g | BrCC(=O)O | C2H3BrO2
reactant | DPTS | 0.44 mmol, 0.130 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.CN(C1=CC=[NH+]C=C1)C
reactant | DCC | 3.5 mmol, 0.729 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | 9-Fluorenylmethyl bromoacetate | BrCC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C16H13BrO2
